US05852040
6-(2-Chloropropionyl)-3,4-dihydro-2(1H)-quinolone
Aluminum chloride (109 g, 817 mmol) was slurried in carbon disulfide (600 mL) and 2-chloropropionyl chloride (16.8 mL, 173.07 mmol) was added. To this mixture was added 3,4-dihydro-2(1H)-quinolone (20.0 g, 135.89 mmol, J. Amer. Chem. Soc., 1944, 66, 1442). The mixture was refluxed for 4 hours, cooled, and the carbon disulfide poured off and discarded. The reddish residue was carefully quenched with ice water which caused the product to solidify. The solids were collected, rinsed well with water, and suctioned dry followed by drying in vacuo. The product weighed 31.37 g (97%) and had mp 205°-206° C. Analysis calculated for C12H12CINO2 : C, 60.64; H, 5.09; N, 5.89. Found: C, 60.20; H, 4.89; N, 5.78.

reactant | Aluminum chloride | 817 mmol, 109 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chloropropionyl chloride | 173.07 mmol, 16.8 mL | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | 3,4-dihydro-2(1H)-quinolone | 135.89 mmol, 20.0 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
solvent | carbon disulfide | 600 mL | C(=S)=S | CS2
product | 6-(2-Chloropropionyl)-3,4-dihydro-2(1H)-quinolone | ClC(C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C12H12ClNO2
